tst
*SPICE Netlist generated by Advanced Sim server on 08.09.2021 10:15:46
.options MixedSimGenerated

*Schematic Netlist:
DD1 NetD1_1 0 diode
VV1 NetD1_1 0 5 AC 1 0

.PLOT {V(NetD1_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
.MODEL diode D ()

.END